data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:1]1[c:6]([CH3:27])[s:38][c:5]([B-:8]2([c:39]3[cH:28][c:9]([C:3]([F:32])([F:33])[F:34])[cH:15][c:10]([C:4]([F:35])([F:36])[F:37])[cH:29]3)[O:23][CH2:17][CH2:18][O:24]2)[cH:12]1.[n:2]1[n:7][c:31]2[n:14]([cH:19][c:30]([N+:13](=[O:11])[O-:25])[cH:22][c:20]2[N+:21](=[O:16])[O-:40])[n:26]1>>[C:3]([c:9]1[cH:15][c:10]([C:4]([F:35])([F:36])[F:37])[cH:29][c:39]([B-:8]2=[O+:23][CH2:17][CH2:18][O:24]2)[cH:28]1)([F:32])([F:33])[F:34].[cH:1]1[c:6]([CH3:27])[s:38][c:5]([CH:19]2[n:14]3[n:26][n:2][n:7][c:31]3[C:20]([N+:21](=[O:16])[O-:40])=[CH:22][C:30]2=[N+:13]([O-:11])[O-:25])[cH:12]1", "epd": [["LP-/Pi+", [23], [8, 23]], ["Sigma-/Sigma+", [5, 8], [5, 19]], ["Pi-/Pi+", [19, 30], [30, 13]], ["Pi-/LP+", [13, 11], [11]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:10]1[N+:16](=[CH:5][CH:30]=[CH:11][c:24]2[cH:7][cH:17][cH:4][cH:18][cH:8]2)[CH:15]([CH2:31][c:28]2[cH:33][cH:12][cH:19][cH:13][cH:34]2)[C:21](=[O:9])[N:29]1[CH3:20])([CH3:25])([CH3:26])[CH3:27].[S:1]([c:3]1[cH:35][cH:22][cH:14][cH:23][cH:36]1)([O-:6])=[O:32]>>[S+:1]([c:3]1[cH:35][cH:22][cH:14][cH:23][cH:36]1)([O-:6])([CH:11]([c:24]1[cH:7][cH:17][cH:4][cH:18][cH:8]1)[CH:30]=[CH:5][N:16]1[CH:10]([C:2]([CH3:25])([CH3:26])[CH3:27])[N:29]([CH3:20])[C:21](=[O:9])[CH:15]1[CH2:31][c:28]1[cH:33][cH:12][cH:19][cH:13][cH:34]1)=[O:32]", "epd": [["LP-/Sigma+", [1], [1, 11]], ["Pi-/Pi+", [11, 30], [30, 5]], ["Pi-/LP+", [5, 16], [16]]]}
{"reaction_name": "Ketene silyl acetal addition", "rsmi": "[CH2:7]=[N+:11]([CH3:9])[CH3:10].[Si:1]([CH3:3])([CH3:4])([CH3:5])[O:8][C:13](=[CH2:2])[O:12][CH3:6]>>[CH2:2]([CH2:7][N:11]([CH3:9])[CH3:10])[C:13](=[O:8])[O:12][CH3:6].[Si+:1]([CH3:3])([CH3:4])[CH3:5]", "epd": [["LP-/Pi+", [8], [8, 13]], ["Sigma-/LP+", [1, 8], [8]], ["Pi-/Sigma+", [2, 13], [2, 7]], ["Pi-/LP+", [7, 11], [11]]]}
{"reaction_name": "Enamine formation", "rsmi": "[C:3]([CH3:6])([CH2:7][H:10])=[O:9].[CH2:1]1[CH2:2][CH2:5][N:8]([H:11])[CH2:4]1>>[CH2:1]1[CH2:2][CH2:5][N:8]([C:3]([CH3:6])=[CH2:7])[CH2:4]1.[O:9]([H:10])[H:11]", "epd": [["Sigma-/Pi+", [7, 10], [3, 7]], ["Sigma-/LP+", [3, 9], [9]], ["LP-/Sigma+", [9], [9, 11]], ["Sigma-/LP+", [8, 11], [8]], ["LP-/Sigma+", [8], [3, 8]], ["Pi-/LP+", [3, 9], [9]], ["LP-/Sigma+", [9], [9, 10]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:2]=[S:6](=[O:3])([C:8]([F:24])([F:25])[F:26])[c:20]1[cH:15][c:7]2[n+:10]([O-:4])[o:23][n:13][c:27]2[c:19]([N+:14]([O-:11])=[O:18])[cH:22]1.[S:1]([c:5]1[cH:28][cH:16][cH:12][cH:17][cH:29]1)([O-:9])=[O:21]>>[S+:1]([c:5]1[cH:28][cH:16][cH:12][cH:17][cH:29]1)([O-:9])([CH:15]1[c:7]2[n+:10]([O-:4])[o:23][n:13][c:27]2[C:19](=[N+:14]([O-:11])[O-:18])[CH:22]=[C:20]1[S:6](=[O:2])(=[O:3])[C:8]([F:24])([F:25])[F:26])=[O:21]", "epd": [["LP-/Sigma+", [1], [1, 15]], ["Pi-/Pi+", [15, 20], [20, 22]], ["Pi-/Pi+", [22, 19], [19, 14]], ["Pi-/LP+", [14, 18], [18]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[O-:5][c:27]1[cH:16][c:14](=[O:18])[n:28]([CH3:11])[c:22](=[O:10])[n:29]1[CH3:19].[O:1]=[S:21](=[O:2])([N:17]([F:15])[S:20](=[O:3])(=[O:4])[c:30]1[cH:6][cH:23][cH:12][cH:26][cH:9]1)[c:31]1[cH:7][cH:24][cH:13][cH:25][cH:8]1>>[O:1]=[S:21](=[O:2])([N-:17][S:20](=[O:3])(=[O:4])[c:30]1[cH:6][cH:23][cH:12][cH:26][cH:9]1)[c:31]1[cH:7][cH:24][cH:13][cH:25][cH:8]1.[O:5]=[C:27]1[CH:16]([F:15])[C:14](=[O:18])[N:28]([CH3:11])[C:22](=[O:10])[N:29]1[CH3:19]", "epd": [["LP-/Pi+", [5], [27, 5]], ["Pi-/Sigma+", [16, 27], [16, 15]], ["Sigma-/LP+", [15, 17], [17]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[C:1]1(=[O:4])[CH:24]=[CH:14][C:19](=[N+:26]([O-:17])[O-:18])[CH:15]=[CH:25]1.[S:2]([c:6]1[cH:20][cH:10][cH:8][cH:13][cH:23]1)([C:16]([S:3]([c:7]1[cH:21][cH:11][cH:9][cH:12][cH:22]1)(=[O:27])=[O:28])=[CH2:5])(=[O:29])=[O:30]>>[c:1]1([O:4][CH2:5][C-:16]([S:2]([c:6]2[cH:20][cH:10][cH:8][cH:13][cH:23]2)(=[O:29])=[O:30])[S:3]([c:7]2[cH:21][cH:11][cH:9][cH:12][cH:22]2)(=[O:27])=[O:28])[cH:24][cH:14][c:19]([N+:26](=[O:17])[O-:18])[cH:15][cH:25]1", "epd": [["LP-/Pi+", [17], [26, 17]], ["Pi-/Pi+", [19, 26], [14, 19]], ["Pi-/Pi+", [24, 14], [1, 24]], ["Pi-/Sigma+", [4, 1], [4, 5]], ["Pi-/LP+", [5, 16], [16]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH3:2][C:8](=[C:3]=[N-:13])[c:14]1[cH:17][cH:20][cH:24][cH:21][cH:18]1.[n:1]1[n:4][c:23]2[n:7]([cH:10][c:22]([N+:6](=[O:5])[O-:16])[cH:15][c:11]2[N+:12](=[O:9])[O-:25])[n:19]1>>[n:1]1[n:4][c:23]2[n:7]([n:19]1)[CH:10]([C:8]([CH3:2])([C:3]#[N:13])[c:14]1[cH:17][cH:20][cH:24][cH:21][cH:18]1)[C:22](=[N+:6]([O-:5])[O-:16])[CH:15]=[C:11]2[N+:12](=[O:9])[O-:25]", "epd": [["LP-/Pi+", [13], [3, 13]], ["Pi-/Sigma+", [8, 3], [8, 10]], ["Pi-/Pi+", [10, 22], [22, 6]], ["Pi-/LP+", [6, 5], [5]]]}
